US05151442
A) Trans-6-cyano-4-cyclohexylthio-2,2-dimethyl-3-hydroxychroman
A mixture of 1.5 g of 6-cyano-2,2-dimethyl-3,4-epoxychroman, 1.2 g of cyclohexylmercaptan and 0.3 g of a 35% methanolic solution of benzyltrimethylammonium hydroxide in 10 ml of tetrahydrofuran is refluxed for 8 hours.

reactant | 6-cyano-2,2-dimethyl-3,4-epoxychroman | 1.5 g | C(#N)C=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C12H11NO2
reactant | cyclohexylmercaptan | 1.2 g | C1(CCCCC1)S | C6H12S
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Trans-6-cyano-4-cyclohexylthio-2,2-dimethyl-3-hydroxychroman | C(#N)C=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)SC1CCCCC1 | C18H23NO2S
